US05643932
548 mg of lithium aluminum hydride was added to a solution of 5.43 g of 2-(3,4-diethoxyphenyl)-4-(3-methoxycarbonyl-4-tert-butyldimethylsilyloxyphenyl)-thiazole in 100 ml of tetrahydrofuran, with ice-cooling. The mixture was stirred at the same temperature for 7 hours. To the reaction mixture were added 1.1 ml of water and 3 g of sodium sulfate. The resulting mixture was filtered through Celite. The filtrate was subjected to distillation to remove the solvent. To the residue were added 200 ml of ethyl acetate and 50 ml of water. The mixture was neutralized with 5N hydrochloric acid. The insoluble was removed by filtration. The filtrate was subjected to phase separation. The organic layer was washed with 50 ml of water, dried over anhydrous magnesium sulfate and subjected to distillation to remove the solvent. The residue was purified by silica gel column chromatography (eluent: n-hexane/ethyl acetate=10/1 by v/v) and recrystallized from ethyl acetate-n-hexane to obtain 1.23 g of 2-(3,4-diethoxyphenyl)-4-(3-hydroxymethyl-4-tert-butyldimethylsilyloxyphenyl)thiazole.

reactant | lithium aluminum hydride | 548 mg | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | 2-(3,4-diethoxyphenyl)-4-(3-methoxycarbonyl-4-tert-butyldimethylsilyloxyphenyl)-thiazole | 5.43 g | C(C)OC=1C=C(C=CC1OCC)C=1SC=C(N1)C1=CC(=C(C=C1)O[Si](C)(C)C(C)(C)C)C(=O)OC | C27H35NO5SSi
reactant | water | 1.1 ml | O | H2O
reactant | sodium sulfate | 3 g | S(=O)(=O)([O-])[O-].[Na+].[Na+]
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | 2-(3,4-diethoxyphenyl)-4-(3-hydroxymethyl-4-tert-butyldimethylsilyloxyphenyl)thiazole | 1.23 g | C(C)OC=1C=C(C=CC1OCC)C=1SC=C(N1)C1=CC(=C(C=C1)O[Si](C)(C)C(C)(C)C)CO | C26H35NO4SSi
